US06353128B1
3-benzyl-1-cyanomethylbenzene
The two cyanomethyl intermediates, prepared above, were converted via the H202 conditions of Example 2 to their corresponding crystalline amides: 4-benzylphenylacetamide (93%), melting at 183-84° C. and 3-benzylphenylacetamide (59%), melting at 136-37° C.

reactant | 4-benzylphenylacetamide | C(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)N | C15H15NO
reactant | 3-benzylphenylacetamide | C(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=O)N | C15H15NO
product | 3-benzyl-1-cyanomethylbenzene | C(C1=CC=CC=C1)C=1C=C(C=CC1)CC#N | C15H13N
